US06110914
(R)-(-)-5'-(1-Azetidinyl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
(R)-(-)-5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (295 mg, 1 mmol), azetidine (0.101 mL, 1.5 mmol), sodium tert-butoxide (135 mg, 1.4 mmol), tris(dibenzylideneacetone)dipalladium (46 mg, 0.05 mmol), 2,2'-bis(diphenylphosphino)-1,1'-binaphthyl (62 mg, 0.1 mmol) and anhydrous tetrahydrofuran (9 mL) were combined in a heavy-walled threaded glass tube containing a magnetic stir bar, purged with argon, and sealed with a Teflon plug and FETFE O-ring. The mixture was stirred and heated at 75° C. for 4 hours, cooled to room temperature, dissolved in chloroform (20 mL), washed with brine (3×10 mL), dried (MgSO4), evaporated under reduced pressure, and purified by flash chromatography through silica gel (eluting with ammoniated chloroform/methanol 95:5) to procure the title compound (230 mg, 0.0.85 mmol, 85%) as a light tan solid: chemical ionization MS (m/z, relative intensity) 272 ([MH]+, 56).

reactant | (R)-(-)-5'-Bromospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 1 mmol, 295 mg | BrC=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C13H15BrN2O
reactant | azetidine | 1.5 mmol, 0.101 mL | N1CCC1 | C3H7N
reactant | sodium tert-butoxide | 1.4 mmol, 135 mg | CC(C)([O-])C.[Na+]
reactant | 2,2'-bis(diphenylphosphino)-1,1'-binaphthyl | 0.1 mmol, 62 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
product | (R)-(-)-5'-(1-Azetidinyl)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | N1(CCC1)C=1C=C2C(=NC1)O[C@@]1(C2)CN2CCC1CC2 | C16H21N3O
